US08314100B2
1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine (Compound 71)
Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate and 1-(3-methylphenyl)piperazine were reacted by the same way with the example 64 to obtain the titled compound (yield, 95%). 1H NMR (300 MHz, CDCl3): δ 2.33 (s, 3H), 3.26 (s, 4H), 3.72-3.89 (m, 6H), 4.09-4.18 (m, 4H), 6.72-6.78 (m, 4H), 7.03-7.37 (m, 3H), 7.57-7.65 (m, 1H).

reactant | Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)OC | C13H15N3O4
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
product | 1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine | 95% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)C)OC | C22H25N5O3
